US08609848B2
C7. 5-(3,4-dimethoxyphenyl)-4,4-diethyl-2,4-dihydro-3H-pyrazol-3-one
Prepared analogously as described for the example C5 using 3,4-dimethoxybenzoyl chloride, methyl 2-ethylbutanoate and hydrazine hydrate as starting compounds.

reactant | 3,4-dimethoxybenzoyl chloride | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | methyl 2-ethylbutanoate | C(C)C(C(=O)OC)CC | C7H14O2
reactant | hydrazine hydrate | O.NN
product | 5-(3,4-dimethoxyphenyl)-4,4-diethyl-2,4-dihydro-3H-pyrazol-3-one | COC=1C=C(C=CC1OC)C=1C(C(NN1)=O)(CC)CC | C15H20N2O3
